US07585886B2
A 10 ml dichloroethane solution of 0.53 g of 5-oxo-1-phenylpyrrolidine-3-carboaldehyde was mixed with 508 mg of (1R)-1-(3-methoxyphenyl)ethanamine and 0.1 ml of acetic acid and stirred at room temperature for 1 hour. Successively this was mixed with 1.8 g of sodium triacetoxyborohydride and stirred overnight at room temperature. This was mixed with 40 ml of water and extracted with chloroform. The organic layer was concentrated, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol), treated with 4 M hydrogen chloride/ethyl acetate and concentrated to dryness to obtain 161 mg of 4-({[(1R)-1-(3-methoxyphenyl)ethyl]amino}methyl)-1-phenylpyrrolidin-2-one hydrochloride as a colorless solid.

reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
reactant | 5-oxo-1-phenylpyrrolidine-3-carboaldehyde | 0.53 g | O=C1CC(CN1C1=CC=CC=C1)C=O | C11H11NO2
reactant | (1R)-1-(3-methoxyphenyl)ethanamine | 508 mg | COC=1C=C(C=CC1)[C@@H](C)N | C9H13NO
reactant | sodium triacetoxyborohydride | 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | 40 ml | O | H2O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 4-({[(1R)-1-(3-methoxyphenyl)ethyl]amino}methyl)-1-phenylpyrrolidin-2-one hydrochloride | 161 mg | Cl.COC=1C=C(C=CC1)[C@@H](C)NCC1CC(N(C1)C1=CC=CC=C1)=O | InChI=1S/C20H24N2O2.ClH/c1-15(17-7-6-10-19(12-17)24-2)21-13-16-11-20(23)22(14-16)18-8-4-3-5-9-18;/h3-10,12,15-16,21H,11,13-14H2,1-2H3;1H/t15-,16?;/m1./s1
